US05849764
Step C 5-pyridin-3-yl-pentan-2-one
To a solution of oxalyl chloride (0.060 mL in 1 mL dry methylene chloride) at -78° C. was added a solution of methyl sulfoxide (0.075 mL in 0.25 mL methylene chloride) and the mixture stirred at low temperature for 18 minutes. A solution of 5-pyridin-3-yl-pentan-2-ol (71 mg in 1 mL methylene chloride) and the reaction allowed to proceed for 40 minutes after which time 0.35 mL triethylamine were added and the mixture allowed to warm to room temperature. After 35 minutes, water was addded and the mixture extracted with methylene chloride. The organic portion was washed with saturated sodium bicarbonate, dried over sodium sulfate and concentrated in vacuo. Purification of the residue by flash chromatography on silica gel (methylene chloride:methanol, 96:4) gave the title compound (61 mg).

reactant | oxalyl chloride | 0.060 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl sulfoxide | 0.075 mL | CS(=O)C | C2H6OS
reactant | 5-pyridin-3-yl-pentan-2-ol | 1 mL, 71 mg | N1=CC(=CC=C1)CCCC(C)O | C10H15NO
reactant | triethylamine | 0.35 mL | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 5-pyridin-3-yl-pentan-2-one | 61 mg | N1=CC(=CC=C1)CCCC(C)=O | C10H13NO
